US07109209B2
b) 2-(4-Fluorophenyl)-3-bromopyrazolo[1,5-a]pyridine.
To a solution of 2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid (0.96 g, 3.75 mmol) in dry N,N-dimethylformamide (10 mL) was added sodium bicarbonate (0.95 g, 11.3 mmol) followed by N-bromosuccinimide (0.667 g, 3.75 mmol) and the mixture was stirred at room temperature under a nitrogen atmosphere for about 90 minutes. The mixture was poured into water (300 mL) and the resulting solid was collected by filtration and washed with water. The solid was dissolved in 10:1 chloroform:methanol (10 mL) and filtered through a pad (0.5 cm) of silica gel using 10:1 chloroform:methanol as eluent. The filtrate was evaporated to leave the title compound as a tan solid, 0.87 g (80%). 1H NMR (d6 DMSO) δ 8.7 (d, 1H, J=6.9 Hz), 8.02 (dd, 2H, J=8.7, 5.7 Hz), 7.61 (d 1H, J=8.4 Hz), 7.40 (t, 1H, J=6 Hz), 7.38 (t, 2H, J=9 Hz), 7.04 (t, 1H, J=6.9 Hz). MS (+ve ion electrospray) 293 (100), (MH+).

reactant | 2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridine-3-carboxylic acid | 3.75 mmol, 0.96 g | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(=O)O | C14H9FN2O2
reactant | sodium bicarbonate | 11.3 mmol, 0.95 g | C([O-])(O)=O.[Na+]
reactant | N-bromosuccinimide | 3.75 mmol, 0.667 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(4-Fluorophenyl)-3-bromopyrazolo[1,5-a]pyridine | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1Br | C13H8BrFN2
